US04435385
(j) H-Phe-(D)Trp-Lys(Z)-Thr-Cys(MBzl)-Thr-ol hydrochloride
13 g BOC-Phe-(D)Trp-Lys(Z)-Thr-Cys(MBzl)-Thr-ol are dissolved in 60 ml cold TFA/H2O (15:1) and the solution allowed to stand for 30 min. at room temperature. The reaction mixture is stirred into a mixture comprising 3 liters ethyl-ether and 20 ml HCl in ethyl-ether (~5 N) and the precipitated product filtered off, washed with ethyl-ether and dried to yield the title compound:

reactant | BOC-Phe-(D)Trp-Lys(Z)-Thr-Cys(MBzl)-Thr-ol | 13 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H]([C@H](O)C)CO)C(=O)OC(C)(C)C | C58H76N8O12S
reactant | HCl | 20 ml | Cl | ClH
solvent | TFA H2O | 60 ml | C(=O)(C(F)(F)F)O.O
solvent | ethyl-ether | ~5 N | C(C)OCC | C4H10O
solvent | ethyl-ether | 3 liters | C(C)OCC | C4H10O
product | H-Phe-(D)Trp-Lys(Z)-Thr-Cys(MBzl)-Thr-ol hydrochloride | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H]([C@H](O)C)CO.Cl | InChI=1S/C53H68N8O10S.ClH/c1-33-21-23-38(24-22-33)31-72-32-46(51(68)59-45(29-62)34(2)63)60-52(69)47(35(3)64)61-49(66)43(20-12-13-25-55-53(70)71-30-37-16-8-5-9-17-37)57-50(67)44(27-39-28-56-42-19-11-10-18-40(39)42)58-48(65)41(54)26-36-14-6-4-7-15-36;/h4-11,14-19,21-24,28,34-35,41,43-47,56,62-64H,12-13,20,25-27,29-32,54H2,1-3H3,(H,55,70)(H,57,67)(H,58,65)(H,59,68)(H,60,69)(H,61,66);1H/t34-,35-,41+,43+,44-,45-,46+,47+;/m1./s1
